US06521754B2
1-Benzyl-3-(4-methoxy-benzothiazol-2-yl)-urea
To a stirred solution of 2-amino-4-methoxy-benzothiazole (180 mg, 1 mol) in THF (5 ml) was added benzylisocyanate (166 mg, 1.25 mmol) and the mixture heated to 60° C. for 3 h. After evaporation of the solvent, ether (5 ml) was added and the suspension ultra-sonnicated for 10 min with addition of nHexane (5 ml). This suspension was filtered and washed further with ether/nHexane (1:1) to afford the title compound, after drying under vacuum, as a white solid (220 mg, 70% yield), MS: m/e=313 (M+).

reactant | 2-amino-4-methoxy-benzothiazole | 1 mol, 180 mg | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
reactant | benzylisocyanate | 1.25 mmol, 166 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(4-methoxy-benzothiazol-2-yl)-urea | C(C1=CC=CC=C1)NC(=O)NC=1SC2=C(N1)C(=CC=C2)OC | C16H15N3O2S
